US05308853
Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(3,5-dimethyl-4-isoxazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(3,5-dimethyl-4-isoxazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate (1.00 g, 2.281 mmol) in DMF (10 mL) is added K2CO3 (1.580 g, 0.011 moles). After stirring for 15 minutes 4-chloromethyl-3,5-dimethylisoxazole (0.35 g, 2.39 mmol) is added. The mixture is stirred for 24 hours. The solvents were removed under high vacuum. After diluting with ethyl acetate and washing with water and brine the solution is dried over MgSO4. Evaporation in vacuo affords a viscous oil which is dissolved in ether and treated with ethereal HCl to afford a foamy solid upon evaporation in vacuo. This solid is crystallized from ethyl acetate/hexane.

reactant | methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(3,5-dimethyl-4-isoxazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate | 2.281 mmol, 1.00 g | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1C(=NOC1C)C)CC1=CC=C(C(=O)OC)C=C1 | C30H37N5O5
reactant | K2CO3 | 0.011 moles, 1.580 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloromethyl-3,5-dimethylisoxazole | 2.39 mmol, 0.35 g | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | HCl | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(3,5-dimethyl-4-isoxazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochloride | Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1C(=NOC1C)C)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C30H37N5O5.ClH/c1-6-8-10-27-31-17-24(34(27)18-22-11-13-23(14-12-22)29(37)39-5)16-26-28(36)33(15-9-7-2)30(38)35(26)19-25-20(3)32-40-21(25)4;/h11-14,16-17H,6-10,15,18-19H2,1-5H3;1H/b26-16-;
